US09126984B2
Intermediate 19: 2-(4-(6-fluoro-1-(phenylsulfonyl)-1H-indol-3-yl)-1H-pyrazol-1-yl)ethanamine hydrochloride
To a solution of tert-butyl 2-(4-(6-fluoro-1-(phenylsulfonyl)-1H-indol-3-yl)-1H-pyrazol-1-yl)ethylcarbamate (260 mg; 0.54 mmol) in dioxane (5 mL) was added conc. aqueous HCl (5 mL; 36%). The reaction mixture was stirred for 1 hours and concentrated to afford 260 mg (68%) of the title compound as a yellow solid, which was used directly without further purification.

reactant | tert-butyl 2-(4-(6-fluoro-1-(phenylsulfonyl)-1H-indol-3-yl)-1H-pyrazol-1-yl)ethylcarbamate | 0.54 mmol, 260 mg | FC1=CC=C2C(=CN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1C=NN(C1)CCNC(OC(C)(C)C)=O | C24H25FN4O4S
reactant | HCl | 5 mL | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-(4-(6-fluoro-1-(phenylsulfonyl)-1H-indol-3-yl)-1H-pyrazol-1-yl)ethanamine hydrochloride | 260 mg, 68% | Cl.FC1=CC=C2C(=CN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1C=NN(C1)CCN | InChI=1S/C19H17FN4O2S.ClH/c20-15-6-7-17-18(14-11-22-23(12-14)9-8-21)13-24(19(17)10-15)27(25,26)16-4-2-1-3-5-16;/h1-7,10-13H,8-9,21H2;1H
